US07060827B2
In like manner to the preparation of 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro 4-pyrimidineamine, 9-aminofluorene hydrochloride and 2,4-dichloro-5-fluoropyrimidine with added diisopropylethylamine were reacted to produce 2-chloro-N-(fluoren-9-yl)-5-fluoro-4-pyrimidineamine. 1H NMR (CDCl3): δ 7.97 (d, 1H, J=2.3 Hz), 7.73 (d, 2H, J=7.6 Hz), 7.59(d, 2H, J=7.6 Hz), 7.44 (t, 2H, J=7.6 Hz), 7.32 (app t, 2H, J=7.6 Hz), 6.50 (d, 1H, J=8.8 Hz), 5.45 (d, 1H, J=8.4 Hz).

reactant | 9-aminofluorene hydrochloride | Cl.NC1C2=CC=CC=C2C=2C=CC=CC12
reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
product | 2-chloro-N-(fluoren-9-yl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1C2=CC=CC=C2C=2C=CC=CC12)F | C17H11ClFN3
